US07786129B2
5-Chloro-3-{4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 5-chloro-3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine.

reactant | 5-chloro-3-(4-chlorobutyl)-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=CC1F)=O)(CC)CCCCCl | C14H16Cl2FNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 5-Chloro-3-{4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-6-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C2C(C(NC2=CC1F)=O)(CC)CCCCN1CCN(CC1)C1=CC(=CC=C1)Cl | InChI=1S/C24H28Cl2FN3O.ClH/c1-2-24(19-15-20(26)21(27)16-22(19)28-23(24)31)8-3-4-9-29-10-12-30(13-11-29)18-7-5-6-17(25)14-18;/h5-7,14-16H,2-4,8-13H2,1H3,(H,28,31);1H
